US05922770
N-Methyl-N-((1R)-1-(N-methyl-N-(3-phenylpropyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester (1.43 g, 3.10 mmol) was dissolved in dichloromethane (5 ml). The solution was cooled to 0° C. Trifluoroacetic acid (5 ml) was added. The solution was stirred at 0° C. for 90 min. Dichloromethane (35 ml) and saturated sodium hydrogen carbonate solution were added. Solid sodium hydrogen carbonate was added until pH 7. The phases were separated. The aqueous phase was extracted with dichloromethane (2×100 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo to give 0.91 g of crude (2R)-N-methyl-2-methylamino-3-(2-naphthyl)-N-(3-phenylpropyl)propionamide, which was used without further purification.

reactant | N-Methyl-N-((1R)-1-(N-methyl-N-(3-phenylpropyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester | 3.10 mmol, 1.43 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCCC1=CC=CC=C1)C)=O)C)=O | C29H36N2O3
reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 35 ml | ClCCl | CH2Cl2
product | (2R)-N-methyl-2-methylamino-3-(2-naphthyl)-N-(3-phenylpropyl)propionamide | 0.91 g | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CCCC1=CC=CC=C1 | C24H28N2O
